US06710064B2
A mixture of 1-bromo-4-(2-bromoethyl)benzene (101 mg, 0.38 mmol, prepared as described in Synth.Commun [1996], 26, pp. 1467-1472), 2-(3,5-dichlorophenyl)-tetrahydro-imidazo[1,5-a]pyrazine-1,3-dione (100 mg, 0.33 mmol, Prep. 19), potassium carbonate (48 mg, 0.35 mmol) and sodium iodide (10 mg, 0.06 mmol) in methyl isopropyl ketone (2 mL) was heated at 100° C. for 48 h. The precipitate was discarded and the filtrate was concentrated under vacuum and chromatographed over silica gel (CH2Cl2). The obtained oil was treated with Et2O/HCl to yield the hydrochloride of 7-[2-(4-bromophenyl)ethyl]-2-(3,5-dichlorophenyl)-tetrahydro-imidazo[1,5-a]pyrazine-1,3-dione as a white solid (60 mg). 1H NMR (CDCl3) of the free base: 7.25-7.4 (5H, m), 7.00 (2H, d, J=8.3Hz), 4-4.15 (2H, m), 3.32 (1H, dd, J1=4.1 Hz, J2=11.1 Hz), 3.09 (1H, dt), 2.87 (1H, br d), 2.5-2.8 (4H, m), 1.95-2.15 (2H, m)

reactant | 1-bromo-4-(2-bromoethyl)benzene | BrC1=CC=C(C=C1)CCBr | C8H8Br2
reactant | 2-(3,5-dichlorophenyl)-tetrahydro-imidazo[1,5-a]pyrazine-1,3-dione | 0.33 mmol, 100 mg | ClC=1C=C(C=C(C1)Cl)N1C(N2C(CNCC2)C1=O)=O | C12H11Cl2N3O2
reactant | potassium carbonate | 0.35 mmol, 48 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.06 mmol, 10 mg | [I-].[Na+]
solvent | methyl isopropyl ketone | 2 mL | C(C)(C)C(=O)C | C5H10O
product | 7-[2-(4-bromophenyl)ethyl]-2-(3,5-dichlorophenyl)-tetrahydro-imidazo[1,5-a]pyrazine-1,3-dione | 60 mg | BrC1=CC=C(C=C1)CCN1CC2N(CC1)C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O | C20H18BrCl2N3O2
